US04153692
25.8 g (0.1 mol) of 1-imidazol-1-yl-1-phenoxy-3,3-dimethyl-butan-2-one are dissolved in 250 ml of methanol and 5.9 g (0.15 mol) of sodium borohydride are introduced in portions into this solution, at 5° C. to 10° C., while stirring and with reflux cooling. After stirring for 15 hours at room temperature, 20 ml of concentrated hydrochloric acid are added and the reaction mixture is stirred for a further 15 hours at room temperature and poured into 300 ml of saturated sodium bicarbonate solution. The mixture is extracted with twice 100 ml of methylene chloride, the organic phase is washed with twice 100 ml of water and dried over sodium sulphate and the solvent is distilled off under a water pump vacuum. The residue is ground with 30 ml of petroleum ether. 21.6 g (83% of theory) of 1-imidazol-1-yl-1-phenoxy-3,3-dimethyl-butan-2-ol are obtained as a mixture of isomers with a melting point of 99°-105° C.

reactant | 1-imidazol-1-yl-1-phenoxy-3,3-dimethyl-butan-2-one | 0.1 mol, 25.8 g | N1(C=NC=C1)C(C(C(C)(C)C)=O)OC1=CC=CC=C1 | C15H18N2O2
reactant | sodium borohydride | 0.15 mol, 5.9 g | [BH4-].[Na+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sodium bicarbonate | 300 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | 1-imidazol-1-yl-1-phenoxy-3,3-dimethyl-butan-2-ol | 21.6 g, 83% | N1(C=NC=C1)C(C(C(C)(C)C)O)OC1=CC=CC=C1 | C15H20N2O2
